US05922871
Preparation of 4-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester
4-[1-(3-Amino-2-pyridyl)piperazin-4-yl-carbonyl]benzoic acid methyl ester (4 g) was dissolved in methanol (80 ml) and then, acetaldehyde (1.7 ml) and acetic acid (4 ml) were added at 0° C. The solution was stirred at 0° C. for 30 minutes. Then, with the addition of sodium cyanoborohydride (2.2 g), the solution was stirred at 0~5° C. for 2 hours. Excess of water was added gradually, and the solution was neutralized (pH=~8) by addition of aqueous 3N-sodium hydroxide. The mixture was stirred for 1 hour and filtered, and the crude solid was recrystallized using methanol and ether to give 3.51 g (yield: 81%) of the desired compound.

reactant | 4-[1-(3-Amino-2-pyridyl)piperazin-4-yl-carbonyl]benzoic acid methyl ester | 4 g | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1N)=O | C18H20N4O3
reactant | acetaldehyde | 1.7 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 2.2 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 4-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | 3.51 g, yield: 81% | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC)=O | C20H24N4O3
